### PR TITLE
feat(Combinatorics/SimpleGraph/InducedCopy): add `UnlabeledEmbedding`, `unlabeledEmbeddingCount` and `embeddingCount`

### PR DESCRIPTION
**Pull request by FordUniver**
Extracts the induced-containment material from `SimpleGraph/Copy.lean` into a new `SimpleGraph/InducedCopy.lean` and adds the induced analogues of `UnlabeledCopy`/`copyCount`/`unlabeledCopyCount`: a type `UnlabeledEmbedding G H` for induced subgraphs of `H` isomorphic to `G`, a count `H.embeddingCount G := Nat.card (G ↪g H)` for induced labeled copies (i.e. graph embeddings), and a count `H.unlabeledEmbeddingCount G := Nat.card (G.UnlabeledEmbedding H)` for induced unlabelled copies, each with the parallel `_of_isEmpty` / `_eq_zero` / `_pos` / `_le_*` / `_eq_nat_card` API. `IsIndContained`, the `⊴` notation, `IndFree`, and all related lemmas move from `Copy.lean` to the new file. `Embedding.range_toSubgraph` characterises induced subgraphs as the range of `Embedding.toSubgraph : (G ↪g H) → H.Subgraph` and bridges `embeddingCount` to `unlabeledEmbeddingCount`.

Co-authored-by: Malte Jackisch <45597826+MaltyBlanket@users.noreply.github.com>

---

**Final step 5/5 of the `Copy` / `InducedCopy` refactor stack.**

The new file mirrors `Copy.lean`'s organisation (containment → counting → killing sections) for the induced row; the killing-induced-copies machinery is left as a TODO. Naming follows the convention established in #38745: types are guest-first (`UnlabeledEmbedding G H`, `IsIndContained G H`), operations host-first (`H.embeddingCount G`, `H.unlabeledEmbeddingCount G`). The induced labelled type is `Embedding`, i.e., `G ↪g H`, directly. Two bookkeeping changes in `Copy.lean`: `Copy.isContained` / `Embedding.isContained` / `Iso.isContained`/`'` and `isContained_iff_exists_le_comap`, which lived in the now-deleted "Induced containment" section but are non-induced, move up into the `IsContained` section.

`LineGraph.lean`'s `Copy` import switches to `InducedCopy` since it uses `IsIndContained`. The cross-module proofs `embeddingCount_le_copyCount` and `unlabeledEmbeddingCount_le_unlabeledCopyCount` bridge through the public `copyCount_eq_nat_card`/`unlabeledCopyCount_eq_nat_card` lemmas introduced in #38931 (the counts themselves remain unexposed per @plp127's review). `Embedding.ofIsInduced` (used by `Embedding.range_toSubgraph`) comes from the independent prerequisite #39288.

| | labeled | unlabeled |
|---|---|---|
| ordinary | `Copy` / `copyCount` | `UnlabeledCopy` / `unlabeledCopyCount` |
| induced | `Embedding` / `embeddingCount` | `UnlabeledEmbedding` / `unlabeledEmbeddingCount` |

This branch sits on top of an octopus-merge diffbase (`FordUniver:diffbase/ind-copy-count`) of `chore/copy-nat-card` and `feat/subgraph-ofIsInduced`, so the link below shows only the changes intrinsic to this PR.

- [ ] depends on: #38931
- [ ] depends on: #39288

Diff for the changes *just* in this PR over its predecessors: [link](https://github.com/FordUniver/mathlib4/compare/diffbase/ind-copy-count...feat/ind-copy-count).

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 1]
```diff
@@ -543,9 +557,92 @@ end CopyCount
...
+noncomputable def indLabelledCopyCount (G : SimpleGraph V) (H : SimpleGraph W) : ℕ := by
+  classical exact Fintype.card (H ↪g G)
+
+@[simp] lemma indLabelledCopyCount_of_isEmpty [IsEmpty W] (G : SimpleGraph V) (H : SimpleGraph W) :
+    G.indLabelledCopyCount H = 1 := by
+  convert Fintype.card_unique
+  exact { default := RelEmbedding.ofIsEmpty H.Adj G.Adj
+          uniq := fun f => RelEmbedding.ext fun a => isEmptyElim a }
+
+@[simp] lemma indLabelledCopyCount_eq_zero : G.indLabelledCopyCount H = 0 ↔ ¬(H ⊴ G) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
@[simp] lemma indLabelledCopyCount_eq_zero : G.indLabelledCopyCount H = 0 ↔ ¬ H ⊴ G := by
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 2]
```diff
@@ -543,9 +557,92 @@ end CopyCount
...
+  simp [indLabelledCopyCount, Fintype.card_eq_zero_iff, IsIndContained]
+
+@[simp] lemma indLabelledCopyCount_pos : 0 < G.indLabelledCopyCount H ↔ H ⊴ G := by
+  simp [Nat.pos_iff_ne_zero, indLabelledCopyCount_eq_zero]
+
+/-- Every induced labelled copy is a (non-induced) labelled copy. -/
+lemma indLabelledCopyCount_le_labelledCopyCount :
+    G.indLabelledCopyCount H ≤ G.labelledCopyCount H := by
+  classical
+  simp only [indLabelledCopyCount, labelledCopyCount]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Do you need this line?
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 3]
```diff
@@ -543,9 +557,92 @@ end CopyCount
...
+  simpa using Copy.range_embeddingToSubgraph.symm
+
+@[simp] lemma indCopyCount_pos : 0 < G.indCopyCount H ↔ H ⊴ G := by
+  rw [isIndContained_iff_exists_iso_subgraph]
+  classical
+  simp only [indCopyCount, card_pos, filter_nonempty_iff, mem_univ, true_and]
+  exact ⟨fun ⟨G', hInd, hn⟩ => ⟨G', hn.some, hInd⟩,
+         fun ⟨G', e, hInd⟩ => ⟨G', hInd, ⟨e⟩⟩⟩
+
+@[simp] lemma indCopyCount_eq_zero : G.indCopyCount H = 0 ↔ ¬(H ⊴ G) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
@[simp] lemma indCopyCount_eq_zero : G.indCopyCount H = 0 ↔ ¬ H ⊴ G := by
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 4]
```diff
@@ -543,9 +557,92 @@ end CopyCount
...
+  exact (indCopyCount_le_indLabelledCopyCount.trans_eq <|
+      indLabelledCopyCount_of_isEmpty ..).antisymm <|
+    indCopyCount_pos.2 <| .of_isEmpty
+
+/-- Every induced unlabelled copy is a (non-induced) unlabelled copy. -/
+lemma indCopyCount_le_copyCount : G.indCopyCount H ≤ G.copyCount H := by
+  classical
+  simp only [indCopyCount, copyCount]
+  exact Finset.card_le_card fun G' hG' => by
+    simp only [mem_filter, mem_univ, true_and] at hG' ⊢; exact hG'.2
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Can you golf this using `simp +contextual` or `grind`?

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 5]
```diff
@@ -529,6 +529,9 @@ abbrev comp (f' : G' ↪g G'') (f : G ↪g G') : G ↪g G'' :=
 theorem coe_comp (f' : G' ↪g G'') (f : G ↪g G') : ⇑(f'.comp f) = f' ∘ f :=
   rfl
 
+@[simp] lemma comp_toHom (f' : G' ↪g G'') (f : G ↪g G') :
+    (f'.comp f).toHom = f'.toHom.comp f.toHom := rfl
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]:
```suggestion
@[simp] lemma toHom_comp (f' : G' ↪g G'') (f : G ↪g G') :
    (f'.comp f).toHom = f'.toHom.comp f.toHom := rfl
```

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 6]
```diff
@@ -669,6 +669,15 @@ theorem map_sup (f : G →g G') (H₁ H₂ : G.Subgraph) : (H₁ ⊔ H₂).map f
 @[simp] lemma edgeSet_map (f : G →g G') (H : G.Subgraph) :
     (H.map f).edgeSet = Sym2.map f '' H.edgeSet := Sym2.fromRel_relationMap ..
 
+lemma IsInduced.map {H : G.Subgraph} (hH : H.IsInduced) (e : G ↪g G') :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean]:
```suggestion
protected lemma IsInduced.map {H : G.Subgraph} (hH : H.IsInduced) (e : G ↪g G') :
```

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 7]
```diff
@@ -747,6 +756,15 @@ theorem hom_injective {x : Subgraph G} : Function.Injective x.hom :=
 @[simp] lemma map_hom_top (G' : G.Subgraph) : Subgraph.map G'.hom ⊤ = G' := by
   aesop (add unfold safe Relation.Map, unsafe G'.edge_vert, unsafe Adj.symm)
 
+/-- The canonical embedding of an induced subgraph into the ambient graph.
+Unlike `Subgraph.hom`, this is an embedding rather than a homomorphism, since induced subgraphs
+reflect adjacency. -/
+def IsInduced.toEmbedding {G' : G.Subgraph} (hG' : G'.IsInduced) : G'.coe ↪g G :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean]:
```suggestion
def Embedding.ofIsInduced (G' : G.Subgraph) (hG' : G'.IsInduced) : G'.coe ↪g G :=
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 2 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: True, not needed

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 4 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: just `grind` resolves it, I think this is the preferred way?

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 8]
```diff
@@ -669,6 +669,15 @@ theorem map_sup (f : G →g G') (H₁ H₂ : G.Subgraph) : (H₁ ⊔ H₂).map f
 @[simp] lemma edgeSet_map (f : G →g G') (H : G.Subgraph) :
     (H.map f).edgeSet = Sym2.map f '' H.edgeSet := Sym2.fromRel_relationMap ..
 
+protected lemma IsInduced.map {H : G.Subgraph} (hH : H.IsInduced) (e : G ↪g G') :
+    (H.map e.toHom).IsInduced := by
+  intro v hv w hw hAdj
+  rw [map_verts] at hv hw
+  obtain ⟨a, ha, rfl⟩ := hv
+  obtain ⟨b, hb, rfl⟩ := hw
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean]:
```suggestion
  rintro _ ⟨a, ha, rfl⟩ _ ⟨b, hb, rfl⟩ hAdj
```

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 9]
```diff
@@ -868,6 +877,16 @@ lemma adj_iff_of_neighborSet_equiv {v : V} {H : Subgraph G}
 
 end Subgraph
 
+/-- The canonical embedding of an induced subgraph into the ambient graph.
+Unlike `Subgraph.hom`, this is an embedding rather than a homomorphism, since induced subgraphs
+reflect adjacency. -/
+def Embedding.ofIsInduced {G : SimpleGraph V} (G' : G.Subgraph) (hG' : G'.IsInduced) :
+    G'.coe ↪g G :=
+  { toFun := (↑), inj' := Subtype.coe_injective, map_rel_iff' := hG'.adj.symm }
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean]:
```suggestion
    G'.coe ↪g G where
  toEmbedding := .subtype _
  map_rel_iff' := hG'.adj.symm
```
or something like that

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 10]
```diff
@@ -546,9 +561,91 @@ end CopyCount
...
 
-TODO
+section IndLabelledCopyCount
+variable [Fintype V] [Fintype W]
+
+/-- `G.indLabelledCopyCount H` is the number of induced labelled copies of `H` in `G`,
+i.e., the number of graph embeddings from `H` to `G`.
+
+This is the induced analogue of `SimpleGraph.labelledCopyCount`. -/
+noncomputable def indLabelledCopyCount (G : SimpleGraph V) (H : SimpleGraph W) : ℕ := by
```
Comment (plp127) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]: can we have this not be exposed

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean (hunk 8 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Subgraph.lean]: Much nicer, not sure why I thought the `rw` was necessary

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 10 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Interesting, why the preference of making this `private` if `labelledCopyCount` is not? In the mathematical literature I think the following are commonly used (with the N and Y respectively denoting necessarily induced or not, necessarily injective or not, and labelled or not):

  - `sub(H,G)` or `N(H,G)` for `copyCount`(NYN)
  - `inj(H,G)` or `t_inj(H,G)` for `labelledCopyCount` (NYY)
  - `p(H,G)` or `t_ind(H,G)` for `indCopyCount` (YYN)
  - `ind(H,G)` for `indLabelledCopyCount` (YYY), see for example `arXiv:1802.08876`
  - `hom(H,G)` or `t(H,G)` for NNY, which I think is not yet in mathlib?

Though admittedly `indLabelledCopyCount` does definitely seem the least used / useful out of these... what is actually the cost of having it `private` vs not?

Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Rather than private we could also just fully remove it. But I thought having the complete set of four notions with exhaustive parallel results makes things more predictable?

Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Actually, I have used that notion myself in the past: [arxiv:2412.12904](https://arxiv.org/abs/2412.12904). I think it had some genuine advantages over the alternatives in terms of simplicity of the involved formulas, which is why we ended up using it there. I don't have a fully settled plan yet for the formalization of flag algebras / graph homomorphisms (where `indCopyCount` is the more standard notion) that I am aiming for with this PR, but my goal was to make it reasonably agnostic to which underlying density notion is more convenient for the individual problem.

Comment (plp127) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: No, `private` is a different thing. To unexpose the definition you can just put `@[no_expose]` on it. This way downstream modules can use the definition, but will not be able to unfold it, vs if it was private then downstream modules wouldn't know about the definition at all. The reason this should be not exposed is because it is defined using a classical `Fintype` instance and so unfolding the definition is rarely what you want to do.

See [this section](https://lean-lang.org/doc/reference/latest/find/?domain=Verso.Genre.Manual.section&name=module-scopes) of the Lean Language Reference.

Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Ah, my mistake! But shouldn't the other notions (including the already existing ones)  then also be `@[no_expose]`? `copyCount`, `labelledCopyCount`, and `indCopyCount` also all are `noncomputable` and use `classical exact Fintype.card`. I tried to align the new notions as closely as possible with the existing ones to not pull orthogonal issues into this PR.

Comment (plp127) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: `copyCount` and `labelledCopyCount` were present before mathlib moved to the module system in #31786 which added an `@[expose] public section` at the top of every file, so they did not have a chance to be explicitly unexposed when they were added (PR welcome!). `labelledCopyCount` is added in this PR and should also not be exposed.

Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Alright, I will just cover the two new notions `indLabelledCopyCount` and `indCopyCount` then!

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 11]
```diff
@@ -546,9 +561,92 @@ end CopyCount
...
-TODO
+section IndLabelledCopyCount
+variable [Fintype V] [Fintype W]
+
+/-- `G.indLabelledCopyCount H` is the number of induced labelled copies of `H` in `G`,
+i.e., the number of graph embeddings from `H` to `G`.
+
+This is the induced analogue of `SimpleGraph.labelledCopyCount`. -/
+@[no_expose]
+noncomputable def indLabelledCopyCount (G : SimpleGraph V) (H : SimpleGraph W) : ℕ := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
noncomputable def indLabeledCopyCount (G : SimpleGraph V) (H : SimpleGraph W) : ℕ := by
```
and everywhere else in this file, see [spelling](https://leanprover-community.github.io/contribute/naming.html#spelling)

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 12]
```diff
@@ -669,6 +669,12 @@ theorem map_sup (f : G →g G') (H₁ H₂ : G.Subgraph) : (H₁ ⊔ H₂).map f
 @[simp] lemma edgeSet_map (f : G →g G') (H : G.Subgraph) :
     (H.map f).edgeSet = Sym2.map f '' H.edgeSet := Sym2.fromRel_relationMap ..
 
+protected lemma IsInduced.map {H : G.Subgraph} (hH : H.IsInduced) (e : G ↪g G') :
+    (H.map e.toHom).IsInduced := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:672]: Can we also have `(e : G ≃g G') : (H.map e).IsInduced ↔ H.IsInduced` (tagged `simp`)?

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 13]
```diff
@@ -546,9 +561,92 @@ end CopyCount
...
+  classical exact Fintype.card (H ↪g G)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
noncomputable def indLabelledCopyCount (G : SimpleGraph V) (H : SimpleGraph W) : ℕ := by
  Nat.card (H ↪g G)
```
I also think we should be using `ENat.card`

**Comment by SnirBroshi** [comment]
Hey, can you please edit the PR description to avoid AI walls of text above the `---`?

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 13 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: `ENat.card` seems like the right choice, but using it just for the new induced and not the existent notions probably introduces a ton of headaches... Options:

- I make this PR dependent on a separate new PR that switches the existent notions to use `@[no_expose]`, correct spelling of "labeled", and `ENat.card`.
- I switch just the new induced notions in this PR to `ENat.card` and do a subsequent PR that aligns the existent notions with this. This probably implies moving the inequality between induced and existent notions to that second PR.
- We keep `classical Fintype.card` in this PR and I do a subsequent one to move all four notions to `ENat.card` and maybe a separate to add `@[no_expose]` and correct spelling of "labeled" in the existent notions.

Any preference? I am always wary of stacking PRs, so three would be mine, but I can also do one. Two is messier and doesn't seem principled imho.

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: I prefer 2 and I don't think you have to move the inequality, but I think we should see what others think of `ENat` here since I might be outvoted.

But regardless of that, you can use `Nat.card` here without any `ENat` for now. `Fintype` is just hard to use.

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 10 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: @plp127 see #38745

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 13 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Alright, I just opened #38745 for the "labelled" and `@[no_expose]` fix in the existent parts of the file. Should probably precede this PR, I will rebase after that is merged. I can look into `Nat.card` vs `ENat.card` and how easily we can switch over tomorrow. Let me know if you have come to a consensus on what is preferred.

**Comment by YaelDillies** [comment]
Following discussions in DMs, I find that this PR wasn't actually LLM-generated. Christoph merely asked his LLM questions about naming and proof style, rather than "generating" the code.

**Comment by SnirBroshi** [comment]
Oh, I was kinda happy that we got good-quality LLM code, I guess LLMs are still far from that

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 14]
```diff
@@ -546,9 +561,92 @@ end CopyCount
...
 
-TODO
+section IndLabeledCopyCount
+variable [Fintype V] [Fintype W]
+
+/-- `G.indLabeledCopyCount H` is the number of induced labeled copies of `H` in `G`,
+i.e., the number of graph embeddings from `H` to `G`.
+
+This is the induced analogue of `SimpleGraph.labelledCopyCount`. -/
+@[no_expose]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Can you remove the `@[expose]` on l.65 instead?
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 15]
```diff
@@ -546,9 +561,92 @@ end CopyCount
...
+noncomputable def indLabeledCopyCount (G : SimpleGraph V) (H : SimpleGraph W) : ℕ := by
+  classical exact Fintype.card (H ↪g G)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]: I agree with Snir that this is better
```suggestion
  Nat.card (H ↪g G)
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 14 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: This seems to be a bit more nuanced than just removing the file-wide `@[no_expose]`, might make this a separate prior PR to not combine orthogonal concerns in this one. I'll leave this conversation open since the alignment changes should be reviewed.

Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: @YaelDillies @plp127 Alright, I opened #38843 for the `expose` changes in the "base state" and rebased this branch plus added two commits to align it with the convention and fill in an API gap with `Embedding.ofIsInduced_apply`.

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 13 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: And #38931 adds `Nat.card` with this branch rebased on top and the new `induced` notions also using `Nat.card`.

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 15 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Done, see also #38931

**Comment by FordUniver** [comment]
The complete stack of PRs is now:

- #38745
- #38843
- #38931
- #38631

There is also a [discussion on zulip](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/SimpleGraph.2ECopy.20is.20labeled.20but.20copyCount.20is.20not/with/592754718) on possibly adding a move to more verbose names `{labeled,unlabeled}CopyCount` to #38745. Besides that (and some future plans that can wait), the stack should be complete.
